US06054412
Step 1: 2,4-Dichlorobenzaldehyde (N-methyl)hydrazone
263 g (5.7 mol) of methylhydrazine were treated with a solution of 200 g (1.14 mol) of 2,4-dichlorobenzaldehyde in 1.2 l of ethanol. After the mixture had been stirred for 48 hours, the small amount of solids present was filtered off and the filtrate was then concentrated. Yield: quantitative.

reactant | methylhydrazine | 5.7 mol, 263 g | CNN | CH6N2
reactant | 2,4-dichlorobenzaldehyde | 1.14 mol, 200 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
solvent | ethanol | 1.2 l | C(C)O | C2H6O
product | 2,4-Dichlorobenzaldehyde (N-methyl)hydrazone | Yield: quantitative | CNN=CC1=C(C=C(C=C1)Cl)Cl | C8H8Cl2N2
